* Z:\home\solomon\ICWC\Mini_Projects\Mini_Project_2\final_lna.asc
XX1 N004 N002 0 0 nmos65 params: L=65nm, W=100um, M=10
V1 N001 0 1.2
C3 Vout1 N002 200p
Rl1 N003 Vout1 100k
C4 N004 N005 200f
Rf1 N002 N004 1Mega
L1 N002 N001 10n Rser=1.57k
CL1 N002 0 10f
C5 N003 0 100f
V2 N005 N006 SINE(0 1u 2.47G) AC 1 Rser=50
R3 N001 N002 20k
V3 N006 0 SINE(0 1u 2.53G)

* block symbol definitions
.subckt nmos65 G D S B
M1 D G S B NMOS l={L} w={W} ad='2*65n*{W}' as='2*65n*{W}' pd='2*(2*65n+{W})' ps='2*(2*65n+{W})' m={M}
.PARAM L=65n W=1u M=1
.ends nmos65

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\solomon\My Documents\LTspiceXVII\lib\cmp\standard.mos
;ac dec 100 2G 3G
.tran 0.1u
;noise V(Vout1) V2 dec 100 2G 3G
.net I(Rl1)  V2
* Drain-feedback CG Low Noise Amplifier
.backanno
.end
