* Z:\home\solomon\ICWC\Mini_Projects\Mini_Project_1\matching_cir.asc
L N001 N002 15.99n
R N003 N002 6.602
Cs1 N001 N006 79.55f
Cs2 N003 N007 76.75f
Rs1 N006 0 726.2
Rs2 N007 0 789.9
RL N003 0 50
C1 N001 0 1.2p
V1 N001 0 AC 1 Rser=250
L1 N004 N005 15.91n
RL1 N005 0 50
C2 N004 0 1.2p
V2 N004 0 AC 1 Rser=250
.net I(RL) V1
.ac dec 1000 0.5G 5G
* NON IDEAL
* IDEAL
* MATCHING NETWORK
.net I(RL1) V2
.backanno
.end
